### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): inverse limit of nonempty quasicompact closeds is nonempty

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 1]
```diff
@@ -85,3 +85,73 @@ lemma Scheme.nonempty_of_isLimit [IsCofilteredOrEmpty I]
...
+    uniq s m hm := by
+      rw [← cancel_mono (subschemeι _)]
+      refine hc.hom_ext fun i ↦ ?_
+      simp [← cancel_mono (subschemeι _), ι, c', ← hm] }
+  have : Nonempty (⨆ i, (vanishingIdeal ⟨Z i, hZc i⟩).comap (c.π.app i)).support :=
+    Scheme.nonempty_of_isLimit D' c' hc'
+  simpa using this
+
+include hc in
+@[stacks 01Z3]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: Could you add a docstring explaining the difference with the unprimed version?

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 2]
```diff
@@ -85,3 +85,73 @@ lemma Scheme.nonempty_of_isLimit [IsCofilteredOrEmpty I]
...
+  haveI (i) : Nonempty (D'.obj i) := Set.nonempty_coe_sort.mpr (hZne i)
+  haveI (i) : CompactSpace (D'.obj i) := isCompact_iff_compactSpace.mp (hZcpt i)
+  let c' : Cone D' :=
+  { pt := (⨆ i, (vanishingIdeal ⟨Z i, hZc i⟩).comap (c.π.app i)).subscheme
+    π :=
+    { app i := subschemeMap _ _ (c.π.app i) (by simp [le_map_iff_comap_le, le_iSup_of_le i])
+      naturality {i j} f := by simp [D', ← cancel_mono (subschemeι _)] } }
+  let hc' : IsLimit c' :=
+  { lift s := IsClosedImmersion.lift (subschemeι _) (hc.lift ((Cones.postcompose ι).obj s)) (by
+      suffices ∀ i, vanishingIdeal ⟨Z i, hZc i⟩ ≤ (s.π.app i ≫ ι.app i).ker by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean:126]: Could you add a TODO to remove this as soon as we know that inverse limits with affine transition maps exist?

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer delegate

(For the record: The import increase is fine, because this is a recently added leaf file.)

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean:126]: I'm not sure if this could be removed though, I still need to show that the limit cone looks like this (which is the content of this proof anyways) and this cannot be obtained from the abstract nonsense machinery AFAIK.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by erdOne** [comment]
bors merge
